US06344483B1
Ex-8e) Following the procedure described in Tetrahedron Lett Vol.21, 4263, (1980) partial saponification of 10.2 g of ethyl-2-acetylamino-6-t-butyloxycarbonylamino-2-ethoxycarbonyl-4-hexynoate is carried out in ethanol with 1.5 equivalent of KOH in water at 20-25° C. for 3 h to give 2-Acetylamino-6-t-butyloxycarbonylamino-2-ethoxycarbonyl-4-hexynoic acid in 90% yield.

reactant | ethyl-2-acetylamino-6-t-butyloxycarbonylamino-2-ethoxycarbonyl-4-hexynoate | 10.2 g | C(C)OC(C(CC#CCNC(=O)OC(C)(C)C)(C(=O)OCC)NC(C)=O)=O | C18H28N2O7
reactant | KOH | 1.5 equivalent | [OH-].[K+]
solvent | ethanol | C(C)O | C2H6O
solvent | water | O | H2O
product | 2-Acetylamino-6-t-butyloxycarbonylamino-2-ethoxycarbonyl-4-hexynoic acid | 90% yield | C(C)(=O)NC(C(=O)O)(CC#CCNC(=O)OC(C)(C)C)C(=O)OCC | C16H24N2O7
